datasets/10k__Tet_Int.csv
SMILES Labelled
"[H][O:10]C(C)C(C)C([H])[NH][C:20]([O]CC)=[NH+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]CC 10=20;20,21=21"
"C9=CC=CC=C9[NH+:10]([H])[C:20]1([NH:21]C)[O][CH](C7=CC=CC=C7)C([H])[CH](C)[O]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C)[O]2.C9=CC=CC=C9[NH:10][H] 21=20;20,10=10"
"CC[O+:10]([H])[C:20]1([NH:21][H])[O][CH](C7=CC=CC=C7)C([H])[CH](CC)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(CC)[O]2.CC[O:10][H] 21=20;20,10=10"
"[H][NH:10]C([H])C(C)C(CC)[O][C:20]([O][H])=[NH+:21]CC.[Cl-]>>[Cl-].[H][NH+:10](C([H])C(C)C(CC)[O]1)[C:20]1([NH:21]CC)[O][H] 10=20;20,21=21"
"CC1C(O[C:20](=[O:10])N1CCCCCC)CC.[O-:21]C>>CC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]C)CC 21=20;20,10=10"
"[H][O+:10](C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][O:10]C(C9=CC=CC=C9)C(C)C(C8=CC=CC=C8)[O][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21][H])[H])C>>C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])[H])C.[O-:21][H] 10=20;20,21=21"
"[H][NH:10]C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH][C:20]([NH]C)=[NH+:21]C.[Cl-]>>[Cl-].[H][NH+:10](C(C9=CC=CC=C9)C([H])C(C8=CC=CC=C8)[NH]1)[C:20]1([NH:21]C)[NH]C 10=20;20,21=21"
"[H]N([C:20](=[O:10])OC(C(C([O-:21])[H])C)C1=CC=CC=C1)CC>>[H]N([C:20]1(OC(C(C([O:21]1)[H])C)C1=CC=CC=C1)[O-:10])CC 21=20;20,10=10"
"C9=CC=CC=C9[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C([H])[CH](CC)[NH]1.[Cl-]>>[Cl-].C[NH+:21]=[C:20]2[O][CH]([H])[CH]([H])C(CC)[NH]2.C9=CC=CC=C9[O:10][H] 21=20;20,10=10"
"C1=CC=CC=C1N([C:20](=[O:10])OC)C.[O-:21]C>>C1=CC=CC=C1N([C:20]([O-:10])(OC)[O:21]C)C 21=20;20,10=10"
"[H][S+:10](C(CC)C(C)[S]1)[C:20]1([O:21][H])[S][H].[Cl-]>>[Cl-].[H][S:10]C(CC)C(C)[S][C:20]([S][H])=[O+:21][H] 21=20;20,10=10"
"C6=CC=CC=C6[NH+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH]([H])C(C8=CC=CC=C8)[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[O][CH](C7=CC=CC=C7)C([H])[CH](C8=CC=CC=C8)[NH]1 10=20;20,21=21"
"CC[NH+:21]=[C:20]2[NH][CH]([H])[CH](C)C(C)[O]2.CC[NH:10][H].[Cl-]>>[Cl-].CC[NH+:10]([H])[C:20]1([NH:21]CC)[NH][CH]([H])C(C)[CH](C)[O]1 10=20;20,21=21"
"CCC1C(O[C:20](N1CCCCCC)([O-:10])[O:21]CC)[H]>>CCC1C(O[C:20](=[O:10])N1CCCCCC)[H].[O-:21]CC 10=20;20,21=21"
"[O-:21][C:20]1(C)C(O)C([H])C(O)C(CC)[NH+:10]1([H])>>[NH:10]([H])C(CC)C(O)C([H])C(O)[C:20](C)=[O:21] 21=20;20,10=10"
"C1=CC=CC=C1C1C(C(O[C:20](=[O:10])N1[H])CCCCCC)CCCCCC.[O-:21]C1=CC=CC=C1>>C1=CC=CC=C1C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CCCCCC)CCCCCC 21=20;20,10=10"
"[H][S:10]C(C)C(C)[O][C:20]([O]C)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(C)C(C)[O]1)[C:20]1([O:21]C)[O]C 10=20;20,21=21"
"[O-:21][C:20]1(OCC)C([H])C(C)=C(C)C(C)[O:10]1>>[O-:10]C(C)/C(C)=C(C)\C([H])[C:20](OCC)=[O:21] 21=20;20,10=10"
"CCN([C:20](=[O:10])OCC)CCCCCC.[O-:21]CCCCCC>>CCN([C:20]([O-:10])(OCC)[O:21]CCCCCC)CCCCCC 21=20;20,10=10"
"[H]C1C(C(O[C:20](=[O:10])N1[H])CC)[H].[O-:21]C1=CC=CC=C1>>[H]C1C(C(O[C:20](N1[H])([O-:10])[O:21]C1=CC=CC=C1)CC)[H] 21=20;20,10=10"
"C[NH+:21]=[C:20]2[O][CH]([H])[CH](C)C([H])[NH]2.CC[O:10][H].[Cl-]>>[Cl-].CC[O+:10]([H])[C:20]1([NH:21]C)[O][CH]([H])C(C)[CH]([H])[NH]1 10=20;20,21=21"
"CCCCCCC1C(C(O[C:20](=[O:10])N1C)CC)C.[O-:21][H]>>CCCCCCC1C(C(O[C:20](N1C)([O-:10])[O:21][H])CC)C 21=20;20,10=10"
"[H][O:10]C(C9=CC=CC=C9)C([H])[S][C:20]([O]CC)=[O+:21][H].[Cl-]>>[Cl-].[H][O+:10](C(C9=CC=CC=C9)C([H])[S]1)[C:20]1([O:21][H])[O]CC 10=20;20,21=21"
"[H][O+:10]([H])[C:20]1([NH:21][H])[O][CH]([H])C(C)[CH](C8=CC=CC=C8)[O]1.[Cl-]>>[Cl-].[H][NH+:21]=[C:20]2[O][CH]([H])[CH](C)C(C8=CC=CC=C8)[O]2.[H][O:10][H] 21=20;20,10=10"
"[H][O+:21]=[C:20]2[O][CH](C7=CC=CC=C7)[CH](C)C(C)[S]2.C[S:10][H].[Cl-]>>[Cl-].C[S+:10]([H])[C:20]1([O:21][H])[O][CH](C7=CC=CC=C7)C(C)[CH](C)[S]1 10=20;20,21=21"
"[OH:10]C(CCC)C(C)/C([H])=C(C)\[C:20]([H])=[OH+:21]>>[OH:21][C:20]1([H])C(C)=C([H])C(C)C(CCC)[OH+:10]1 10=20;20,21=21"
"[H][S:10]C(CC)C([H])C(C8=CC=CC=C8)[S][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][S+:10](C(CC)C([H])C(C8=CC=CC=C8)[S]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"[H][O+:10](C(CC)C(C)C([H])[NH]1)[C:20]1([NH:21][H])[O]C7=CC=CC=C7.[Cl-]>>[Cl-].[H][O:10]C(CC)C(C)C([H])[NH][C:20]([O]C7=CC=CC=C7)=[NH+:21][H] 21=20;20,10=10"
"[H][O+:10](C([H])C(C)C(C)[S]1)[C:20]1([O:21]C)[O]CC.[Cl-]>>[Cl-].[H][O:10]C([H])C(C)C(C)[S][C:20]([O]CC)=[O+:21]C 21=20;20,10=10"
"[H][NH+:10](C(CC)C([H])C(C8=CC=CC=C8)[O]1)[C:20]1([NH:21]CC)[O]C.[Cl-]>>[Cl-].[H][NH:10]C(CC)C([H])C(C8=CC=CC=C8)[O][C:20]([O]C)=[NH+:21]CC 21=20;20,10=10"
"[H][O:10]C(CC)C([H])C([H])[O][C:20]([S]CC)=[O+:21]C.[Cl-]>>[Cl-].[H][O+:10](C(CC)C([H])C([H])[O]1)[C:20]1([O:21]C)[S]CC 10=20;20,21=21"
"C[O+:10]([H])[C:20]1([NH:21]C6=CC=CC=C6)[NH][CH](CC)C([H])[CH](C)[NH]1.[Cl-]>>[Cl-].C6=CC=CC=C6[NH+:21]=[C:20]2[NH][CH](CC)[CH]([H])C(C)[NH]2.C[O:10][H] 21=20;20,10=10"
"[H][O+:10](C([H])C([H])C(CC)[O]1)[C:20]1([NH:21]C)[O]C.[Cl-]>>[Cl-].[H][O:10]C([H])C([H])C(CC)[O][C:20]([O]C)=[NH+:21]C 21=20;20,10=10"
